US04112112
2-Cyano-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine (0.135 mole) in 100 ml. of concentrated hydrochloric acid and 100 ml. of acetic acid is refluxed for 2 hours. It is then poured onto 500 ml. of water and continuously extracted with methylene chloride. The solution is left to cool to room temperature and filtered to afford 2-carbamoyl-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine.

reactant | 2-Cyano-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine | 0.135 mole | C(#N)C=1C=C2C(C3=C(C=CN2C1)C=CC=C3)=CCCN(C)C | C19H19N3
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-carbamoyl-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine | C(N)(=O)C=1C=C2C(C3=C(C=CN2C1)C=CC=C3)=CCCN(C)C | C19H21N3O
